US05214037
To a solution of tetrazole-5-thiol (3.00 g : 29.41 mMol.) in dimethylformamide (50 ml) under ice cooling is added sodium hydride (60% suspension in oil : 2.59 q : 64.75 mMol.), and the mixture is stirred under ice cooling for 5 to 6 minutes. To the mixture is added a solution of chloromethyl thiolacetate (4.39 gi 35.26 mMol.) in dimethylformamide (10 ml), and the mixture is stirred at room temperature for 2 hours. The reaction mixture is diluted with 10% hydrochloric acid (11 ml) and water and extracted with ethyl acetate. The extract is washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue is purified by silica gel column chromatography (toluene : ethyl acetate=1:1) and the resulting residue is washed with a mixture of n-hexane and ether to give 5-acetylthiomethylthiotetrazole (2.49 9) as colorless crystals. Yield : 45%, m.p. 90° C.

reactant | tetrazole-5-thiol | 29.41 mMol, 3.00 g | N1N=NN=C1S | CH2N4S
reactant | sodium hydride | 64.75 mMol | [H-].[Na+]
reactant | chloromethyl thiolacetate | 35.26 mMol | S1C(=CC=C1)CC(=O)OCCl | C7H7ClO2S
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 11 ml | Cl | ClH
solvent | water | O | H2O
product | 5-acetylthiomethylthiotetrazole | C(C)(=O)SCSC1=NN=NN1 | C4H6N4OS2
